US08071591B2
A mixture of pyrazole (6.85 g, 100 mmol), 2-cyclopenten-1-one (19.3 g, 235 mmol) and ScCl3 (1.42 g, 9.38 mmol) in anhydrous CH2Cl2 (3 mL) was stirred at room temperature for 30 min. The reaction mixture was poured into water and then extracted with CH2Cl2. The organic layer was washed with brine, and dried over anhyd Na2SO4 followed by the removal of solvent. The crude product was purified by column chromatography (Hexane/EtOAc=4/1) to yield 3-(1H-pyrazol-1-yl)cyclopentan-1-one (14.1 g, 94%) as yellow oil.

reactant | pyrazole | 100 mmol, 6.85 g | N1N=CC=C1 | C3H4N2
reactant | 2-cyclopenten-1-one | 235 mmol, 19.3 g | C1(C=CCC1)=O | C5H6O
reactant | water | O | H2O
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | 3-(1H-pyrazol-1-yl)cyclopentan-1-one | 14.1 g, 94% | N1(N=CC=C1)C1CC(CC1)=O | C8H10N2O
